US06982348B2
To a solution of (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-((3-(phenyloxy)phenyl)methyl)propionic acid (2.2 g, 6.00 mmol) in tetrahydrofuran (60 ml) were added diphenylphosphoryl azide (1.42 ml, 6.60 mmol) and triethylamine (1.26 ml, 9.00 mmol) and the mixture was heated under reflux for 4 hrs. The reaction solution was allowed to stand at room temperature, water (200 ml) was added, and the mixture was extracted with ethyl acetate (200 ml×2). The extract was washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-1:1) to give (4RS,5SR)-5-(4-fluorophenyl)-4-((3-(phenyloxy)phenyl)methyl)-1,3-oxazolidin-2-one (1.69 g, 77%).

reactant | (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-((3-(phenyloxy)phenyl)methyl)propionic acid | 6.00 mmol, 2.2 g | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC(=CC=C1)OC1=CC=CC=C1)O | C22H19FO4
reactant | diphenylphosphoryl azide | 6.60 mmol, 1.42 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 9.00 mmol, 1.26 ml | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (4RS,5SR)-5-(4-fluorophenyl)-4-((3-(phenyloxy)phenyl)methyl)-1,3-oxazolidin-2-one | 1.69 g, 77% | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC1=CC=CC=C1 | C22H18FNO3
